US07232821B2
6-{2-[5-Methyl-2-(2,4-difluorobenzyloxy)phenyl]cyclopent-1-enyl}pyrazine-2-carboxylic acid ethyl ester
Prepared by general procedure F(iii) but using 6-{2-[5-methyl-2-(hydroxy)phenyl]cyclopent-1-enyl}pyrazine-2-carboxylic acid ethyl ester instead of 6-{2-[5-methyl-2-(hydroxy)phenyl]cyclopent-1-enyl}pyridine-2-carboxylic acid ethyl ester and 2,4-difluorobenzyl bromide instead of 4-fluorobenzyl bromide.

reactant | 6-{2-[5-methyl-2-(hydroxy)phenyl]cyclopent-1-enyl}pyrazine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CN=C1)C1=C(CCC1)C1=C(C=CC(=C1)C)O | C19H20N2O3
reactant | 2,4-difluorobenzyl bromide | FC1=C(CBr)C=CC(=C1)F | C7H5BrF2
product | 6-{2-[5-Methyl-2-(2,4-difluorobenzyloxy)phenyl]cyclopent-1-enyl}pyrazine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CN=C1)C1=C(CCC1)C1=C(C=CC(=C1)C)OCC1=C(C=C(C=C1)F)F | C26H24F2N2O3
